US05679683
A mixture of 4-chloropyrido [3',2'; 4,5]thieno[3,2-d]pyrimidine (0.12 g, 0.54 mmol), 3-chloroaniline (0.06 mL, 0.5 mmol) and 2-ethoxyethanol (5 mL) is heated under N2 with stirring at 135 C. for 3 h. Upon cooling a solid precipitates. The solid is collected by filtration, washed with acetone and dried in a vacuum oven at ~80 C. to give 4-(3-chloroanilino)pyrido[3',2'; 4,5]thieno[3,2-d]pyrimidine (46 mg, 27%). 1H NMR (DMSO) δ9.97 (1H, s), 8.88 (1H, dd, J=4.6, 1.7 Hz), 8.85 (1H, s), 8.72 (1H, dd, J=8.0, 1.7 Hz), 8.08 (2H, t, J=2.0 Hz), 7.79 (1H, ddd, J=8.3, 2.0, 0.8 Hz), 7.69 (1H, dd, J=8.0, 4.6 Hz), 7.43 (1H, t, J=8.0 Hz), 7.19 (1H, ddd, J=8.0, 2.0, 0.8 Hz).

reactant | 4-chloropyrido [3',2'; 4,5]thieno[3,2-d]pyrimidine | 0.54 mmol, 0.12 g | ClC=1C2=C(N=CN1)C1=C(S2)N=CC=C1 | C9H4ClN3S
reactant | 3-chloroaniline | 0.5 mmol, 0.06 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | 2-ethoxyethanol | 5 mL | C(C)OCCO | C4H10O2
product | 4-(3-chloroanilino)pyrido[3',2'; 4,5]thieno[3,2-d]pyrimidine | 46 mg, 27% | ClC=1C=C(NC=2C3=C(N=CN2)C2=C(S3)N=CC=C2)C=CC1 | C15H9ClN4S
